US04785122
In a mixture containing 38.5 g of an aqueous 36 wt% hydrochloric acid solution and 13.3 g of an aqueous 75 wt% cysteamine hydrochloride solution, 13.0 g of 5-(dimethylamino)methylfurfuryl alcohol was added dropwise and left reacting therein at 50° C. for 30 minutes. By gas chromatography, the yield of reaction of 2-[[[5-dimetylamino)methyl-2-furanyl]-methyl]thio]-ethane amine was found to be 89 mol% relative to 5-(dimethylamino)methylfurfuryl alcohol and the selectivity of the reaction to be 89 mol%. From the resultant reaction mixture in the presence of anhydrous sodium chloride added thereto in an excess amount, the product of the reaction was extracted with diethyl ether. The crude product was distilled under a vacuum to expel the solvent and isolate 14.3 g of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]-ethane amine (boiling at 134° C./1 mmHg).

reactant | hydrochloric acid | Cl | ClH
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | 5-(dimethylamino)methylfurfuryl alcohol | 13.0 g | CN(C)CC1=CC=C(CO)O1 | C8H13NO2
reactant | ethane amine | C(C)N | C2H7N
reactant | sodium chloride | [Cl-].[Na+]
product | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]-ethane amine | 14.3 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
